US07645760B2
b) (E)-3-(2-Bromo-4-chlorophenyl)-acrylic acid
(E)-3-(2-Bromo-4-chlorophenyl)-acrylic acid methyl ester (6.8 g, 17.4 mmol) was dissolved in MeOH (175 ml) and treated with 2N NaOH (13 ml; 26 mmol) and water (87 ml) for 1 hour at 50° C. The mixture was acidified with 2N HCl (15 ml) and extracted with TBME twice. The combined organic phases were dried over Na2SO4 and evporated to dryness to yield the title compound as a solid, which was recrystallised from TBME/hexanes to yield the title compound as colorless crystals (4.4 g, 90%).

reactant | (E)-3-(2-Bromo-4-chlorophenyl)-acrylic acid methyl ester | 17.4 mmol, 6.8 g | COC(\C=C\C1=C(C=C(C=C1)Cl)Br)=O | C10H8BrClO2
reactant | NaOH | 26 mmol, 2N, 13 ml | [OH-].[Na+]
reactant | water | 87 ml | O | H2O
reactant | HCl | 2N, 15 ml | Cl | ClH
solvent | MeOH | 175 ml | CO | CH4O
product | (E)-3-(2-Bromo-4-chlorophenyl)-acrylic acid | BrC1=C(C=CC(=C1)Cl)/C=C/C(=O)O | C9H6BrClO2
